US06174877B1
3-(2-Chloroethyl)imidazo[1,5-a]pyrazine
To a solution of N-(2-pyrazinylmethyl)-3-chloropropionamide (4.52 g) in dichloromethane (30 ml) was added phosphorus oxychloride (1.29 g) under ice cooling. The mixture was stirred for 3 days at room temperature. The mixture was concentrated, and the residue was poured into ice water (400 ml), followed by neutralization with sodium carbonate. The reaction mixture was subjected to salting out with sodium chloride, and extracted with ethyl acetate-THF (1:1, 150 ml×3). The organic layers were combined and dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was subjected to flash column chromatography [carrier: silica gel, 100 g, developing solvent: ethyl acetate→ethyl acetate-ethanol (9:1)]. The eluate was concentrated and residual solid was washed with diethylether to give the title compound (3.07 g) as colorless solid product.

reactant | N-(2-pyrazinylmethyl)-3-chloropropionamide | 4.52 g | N1=C(C=NC=C1)CNC(CCCl)=O | C8H10ClN3O
reactant | phosphorus oxychloride | 1.29 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-(2-Chloroethyl)imidazo[1,5-a]pyrazine | 3.07 g | ClCCC1=NC=C2N1C=CN=C2 | C8H8ClN3
